US04761234
2,4-dinitroaniline (18.05 g), triethylamine (12.97 g) and benzene (750 ml) were placed in a reaction vessel and stirred under the nitrogen atmosphere. To the reaction mixture, 3,5-dinitrobenzoyl chloride (25.00 g) was added and refluxed under heating for 6 hours. The reaction mixture was filtered in hot state and the filtrate was cooled to deposit crystals of 2',3,4',5-tetranitrobenzanilide which was collected by filtration. The product of 2',3,4',5-tetranitrobenzanilide (3.00 g) thus obtained, platinum/carbon (5%) (0.18 g) and dioxane (85 ml) were placed in a pressurized vessel and allowed to react under the hydrogen pressure of 1 to 3 kg/cm2 at 80° C. for 10 hours. After cooling, the catalyst was removed by filtration and dioxane was distilled off under the reduced pressure to obtain powder of 2',3,4',5-tetraaminobenzanilide.

reactant | 2,4-dinitroaniline | 18.05 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5N3O4
reactant | triethylamine | 12.97 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dinitrobenzoyl chloride | 25.00 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=C(C1)[N+](=O)[O-] | C7H3ClN2O5
solvent | benzene | 750 ml | C1=CC=CC=C1 | C6H6
product | 2',3,4',5-tetranitrobenzanilide | 3.00 g | [N+](=O)([O-])C1=C(NC(C2=CC(=CC(=C2)[N+](=O)[O-])[N+](=O)[O-])=O)C=CC(=C1)[N+](=O)[O-] | C13H7N5O9
